US05177089
4-(1,2-dihydro-2-oxo-l-pyridyl)benzaldehyde
4.4 g of 60% sodium hydride was suspended into 150 ml of N,N-dimethylformamide, to which 10.78 g of 2-hydroxypyridine was added little by little at a room temperature. 30 min after, 12.4 g of 4-fluorobenzaldehyde was added and stirred at 120° C. for 3 hours. The reaction solution was concentrated under a reduced pressure and iced water was added, which was extracted with chloroform. After drying with anhydrous magnesium sulfate, the solvent was distilled off. Resultant crystals were washed with ethyl acetate to obtain 10.3 g of the above-captioned compound as fine gray powder (yield: 52%).

reactant | sodium hydride | 4.4 g | [H-].[Na+]
reactant | 2-hydroxypyridine | 10.78 g | OC1=NC=CC=C1 | C5H5NO
reactant | 4-fluorobenzaldehyde | 12.4 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-(1,2-dihydro-2-oxo-l-pyridyl)benzaldehyde | 10.3 g, yield: 52% | O=C1N(C=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO2
